US06894129B2
5 ml (50 μmol of Ti) of toluene solution in which the metallocene is dissolved was added while vigorously agitating. After agitating for 2 hours, 10 wt % of chloric acid-ethanol solution was added to terminate a reaction, the reactant was filtered, washed with ethanol and dried in a vacuum oven of 50° C. to obtain a final styrene/1,3-butadiene copolymer.

reactant | toluene | 50 μmol, 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | chloric acid ethanol | Cl(=O)(=O)O.C(C)O
product | styrene 1,3-butadiene | C=CC1=CC=CC=C1.C=CC=C | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
